US06960601B2
To a solution of 2-bromothiophene (0.22 g, 1.36 mmol) in 2 mL THF was added 0.84 mL of a 1.6 M solution of BuLi in hexane under argon at −78° C. with stirring. The stirring was continued for 1 h. To this was added a solution of 1-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-5-ethyl-1H-imidazol-4-yl]carbonyl}-4-piperidinone in 2 mL THF. The resultant mixture was stirred and gradually allowed to warm up to rt overnight. The reaction was quenched with saturated aqueous NH4Cl and the mixture was extracted with ethyl acetate. The organic layer was concentrated and the crude product was purified by HPLC to yield [2-(2-chlorophenyl)-1-(4-chlorophenyl)-5-ethyl-1H-imidazol-4-yl](2-thienyl)-methanone as a solid (60 mg, 31%): Rf=0.13 (1:5 ethyl acetate/hexanes).

reactant | 2-bromothiophene | 1.36 mmol, 0.22 g | BrC=1SC=CC1 | C4H3BrS
reactant | BuLi | [Li]CCCC
reactant | 1-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-5-ethyl-1H-imidazol-4-yl]carbonyl}-4-piperidinone | ClC1=C(C=CC=C1)C=1N(C(=C(N1)C(=O)N1CCC(CC1)=O)CC)C1=CC=C(C=C1)Cl | C23H21Cl2N3O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [2-(2-chlorophenyl)-1-(4-chlorophenyl)-5-ethyl-1H-imidazol-4-yl](2-thienyl)-methanone | 60 mg, 31% | ClC1=C(C=CC=C1)C=1N(C(=C(N1)C(=O)C=1SC=CC1)CC)C1=CC=C(C=C1)Cl | C22H16Cl2N2OS
